US08133998B2
To a solution of 4,4-difluoropiperidine hydrochloride (1.44 g, 9 mmol) in DCM (15 mL) was added chloroacetic acid (0.94 g, 10 mmol), TEA (1.5 mL), EDC (3.82 g, 20 mmol) and DMAP (cat.). The reaction mixture was stirred at RT overnight. The contents were transferred to a separatory funnel and DCM layer was washed saturated NaHCO3 solution, dried over anhydrous Na2SO4. The crude product was purified by flash column chromatography using 3:1 Pet. Ether:DCM in. 2-(4,4-difluoropiperidin-1-yl)acetyl chloride was isolated as a white solid weighing 1.57 g (yield: 88%).

reactant | 4,4-difluoropiperidine hydrochloride | 9 mmol, 1.44 g | Cl.FC1(CCNCC1)F
reactant | chloroacetic acid | 10 mmol, 0.94 g | ClCC(=O)O | C2H3ClO2
reactant | EDC | 20 mmol, 3.82 g
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(4,4-difluoropiperidin-1-yl)acetyl chloride | yield: 88% | FC1(CCN(CC1)CC(=O)Cl)F | C7H10ClF2NO
